US06153768
Synthesis of (3RS,4RS)-4-[4-(4-chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman
To acetone solution (2 ml) of (3RS,4RS)-4-(hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman (70 mg, 0.15 mmol) were added 1-bromo-4-chlorobutane (36 μl, 0.31 mmol) and potassium carbonate (64 mg, 0.46 mmol), and the resulting mixture was heated under refluxing for 20 hours. After adding water, the reaction solution was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The crude product thus obtained was purified using silica gel plate (ethyl acetate:hexane=1:2) to obtain 73 mg (yield: 87%) of the title compound.

reactant | acetone | 2 ml | CC(=O)C | C3H6O
reactant | (3RS,4RS)-4-(hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 0.15 mmol, 70 mg | OC1=C(C=CC=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C26H28O5S
reactant | 1-bromo-4-chlorobutane | 0.31 mmol, 36 μl | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 0.46 mmol, 64 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | (3RS,4RS)-4-[4-(4-chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 73 mg, yield: 87% | ClCCCCOC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C30H35ClO5S
